Name:  ___  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo ___ female with DMII, hyperlipidemia and 
history of gallstones who presented to the ED complaining of two 
days of epigastric abdominal pain and diarrhea.  Interview 
conducted with ___ interpreter over the phone.
.
Patient reports two days of diarrhea which has been watery, 
non-bloody and black in color with 11 episodes daily.  Abdominal 
pain located in epigastrium radiating to flanks,intermittent, 
___ at max.  Unable to characterize the pain.  Pain improved 
after bowel movement.  No change with po intake although has had 
minimal po x 24 hours.  Endorses nausea without vomiting.  Low 
grade fever to 100.0 last pm.  Also reports frontal headache 
similar to usual headaches - no visual changes or neck 
stiffness.  No sick contacts.  Recent travel to ___ 
___, returned ___.  No weight loss.  Ten days ago she 
had 5 episodes of vomiting, two times with small amount of 
blood.  Patient was evaluated at the ___ today, told 
she was dehydrated and instructed to go to ED.  
.
ED: 97.2  96P  127/71  16  99%RA; levofloxacin 500 iv and flagyl 
500 iv given; CT a/p, AXR and RUQ ultrasound unrevealing. Also 
given morphine 4mg iv, zofran 4mg iv.  Guaiac negative in ED.
.
ROS: 
- General: + fevers, + chills, - sweats, - weight loss
- HEENT: no changes in vision or hearing, no rhinorrhea, nasal 
congestion, headaches, sore throat
- Lungs: no cough, shortness of breath, dyspnea on exertion
- Cardiac: no chest pain, pressure, palpitations, orthopnea, PND
- GI: + abdominal pain, + nausea, - vomiting, + diarrhea, - 
constipation, - BRBPR, - melena
- GU: + dysuria, - hematuria, - urgency, - frequncey
- MSK: no arthralgias or myalgias
- Neuro: no weakness, numbness, seizures, difficulty speaking, 
changes in memory. 

 
Past Medical History:
Diabetes mellitus
Gallstones
Hyperlipidemia
Rotator cuff tendonitis
Hysterectomy for fibroids
 
Social History:
___
Family History:
Grandmother with "vaginal" cancer
 
Physical Exam:
VS: 97.4  88P  103/64  18  97RA
Gen: alert, NAD, pleasant, resting comfortably in bed
Heent: anicteric, eomi, perrl, op clear s lesions, mmd
Neck: supple, no LAD, no JVD
Cv: +s1, s2  -m/r/g
Pulm: clear bilaterally
Abd: soft, nt, nd, +bs
Extr: no edema, 2+ dp/pt
Neuro: cn ___ grossly intact, no focal deficits
Skin: no rashes
Rectal: guaiac negative in ED
 
Pertinent Results:
ECG: 84 NSR, nl axis, no ischemic changes - unchanged from 
___ ecg
___ 06:05PM   LACTATE-3.3*
___ 05:43PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:43PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 04:24PM   LACTATE-3.6*
___ 04:15PM   GLUCOSE-101* UREA N-6 CREAT-0.6 SODIUM-142 
POTASSIUM-3.9 CHLORIDE-101 TOTAL CO2-31 ANION GAP-14
___ 04:15PM   ALT(SGPT)-44* AST(SGOT)-38 ALK PHOS-75 TOT 
BILI-0.4
___ 04:15PM   LIPASE-25
___ 04:15PM   ALBUMIN-4.5
___ 04:15PM   WBC-7.6 RBC-4.24 HGB-13.3 HCT-38.5 MCV-91 
MCH-31.3 MCHC-34.6 RDW-12.9
___ 04:15PM   NEUTS-58.9 ___ MONOS-4.8 EOS-1.6 
BASOS-0.9
___ 04:15PM   PLT COUNT-290
.
___ RUQ U/S:
1. Echogenic liver, most consistent with fatty infiltration. 
More severe 
forms of liver disease including hepatic fibrosis/cirrhosis 
cannot be excluded 
on this examination. 
2. Normal gallbladder without intraluminal stone or secondary 
findings to 
suggest acute cholecystitis. 
.
___ CT a/p with contrast:
1. Sigmoid diverticulosis without secondary signs of acute 
diverticulitis.  
No bowel obstruction or bowel wall thickening. 
2. Hepatic steatosis. 
.
___ AXR:
IMPRESSION: No evidence of bowel obstruction or free air. 
Multiple rounded 
calcifications in the pelvis most likely represent phleboliths. 
.
___ CXR:
IMPRESSION: No acute cardiopulmonary process. No significant 
interval change given differences in lung volumes. 

 
Brief Hospital Course:
___ yo ___ female with DMII, hyperlipidemia and 
history of gallstones admitted with two days of diarrhea and 
abdominal pain.
.
#Diarrhea/abdominal pain
#Nausea and vomiting
-Abdominal CT showed only diverticulosis.  RUQ ultrasound showed 
fatty liver.
-Chemistries, CBC, LFTs showed only mildly elevated ALT.  Lipase 
normal.
-Treating with empiric ciprofloxacin
-Stool studies were ordered, but patient had no further diarrhea 
as an inpatient
-Diet advanced, which she tolerated well.
Suspect that her presentation was most likely an infectious 
gastroenteritis. As she was improved on empiric ciprofloxacin, 
will continue her on a course (total 7 days) of this.
She reports some nausea, vomiting and diarrhea at baseline for 
the past several weeks. Appears that she had a positive serum h 
pylori Ab, not clear if this has been treated. Per her report, 
she is scheduled for an outpatient endoscopy as per her PCP.
What she describes is a chronic process which could be due to 
many different things-- gastritis, lactose intolerance, biliary 
colic, gastroparesis, bacterial overgrowth syndrome, parasitic 
infection, etc. It sounds like a work-up has already been 
initiated for this and given her fever on presentation, that her 
admission represents an acute unrelated infectious process.
.
#Hepatic steatosis.
-Follow-up in outpatient setting.
.
#Diabetes mellitus type 2, controlled, without complications
-Home oral medications (glyburide and metformin) were held 
during admit, may be resumed as outpatient.
-Treated with regular insulin sliding scale
-Continued ASA
.
#Hyperlipidemia
-Continued pravastatin
 
Medications on Admission:
Omeprazole 20mg daily
Pravastatin 40mg daily
Calcium-Vit D 600 BID
Glyburide 5mg BID
Metformin 1000mg BID
ASA 81
Colace 100mg BID
 
Discharge Medications:
1. pravastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
2. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 5 days.
Disp:*10 Tablet(s)* Refills:*0*
4. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily). Capsule, 
Delayed Release(E.C.)(s) 
5. glyburide 5 mg Tablet Sig: One (1) Tablet PO once a day.  
6. metformin 1,000 mg Tablet Sig: One (1) Tablet PO twice a day. 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
Nausea with vomiting
Diarrhea

SECONDARY DIAGNOSES
Diabetes mellitus, type 2, controlled, without complications
Hyperlipidemia
Hepatic steatosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for abdominal pain, diarrhea, and nausea. This 
was likely from an infectious gastroenteritis. Your symptoms 
improved with antibiotics and with intravenous fluids. You 
should complete a 7 day course of antibiotics to see if this 
helps your symptoms improve.
You also reported chronic intermittent nausea, vomiting and 
diarrhea. The cause of this is not clear, but you should discuss 
with Dr. ___ work-up, including stool studies and 
endoscopy. You may need additional evaluation for your 
gallstones as well.
 
Followup Instructions:
___